US06476045B2
(E)-Ethyl 3-[6-Chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl]-2-propenoate
Ethyl (diethoxyphosphinyl)acetate (0.44 mL, 0.50 g, 2.2 mmol) was added dropwise to a suspension of sodium hydride (60% in mineral oil, 98 mg, 2.5 mmol) in 1,2-dimethoxyethane (10 mL) and the mixture was stirred at room temperature for 1 h. A suspension of 6-chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine-3-carboxaldehyde (Description 18, 650 mg, 2.2 mmol) in 1,2-dimethoxyethane (10 mL) was added and the mixture was stirred at room temperature for 1 h. Further sodium hydride (60% in mineral oil, 98 mg, 2.5 mmol) was added and the mixture was stirred at room temperature for 2 h. Water (100 mL) was added and the solid was collected. Toluene was added and evaporated under reduced pressure and the residue was dried in vacuo to give the title compound as a pale brown solid (380 mg, 47%). 1H NMR (360 MHz, CDCl3) δ 8.47 (1H, d, J 1.8 Hz), 7.94 (1H, d, J 16.4 Hz), 7.68 (3H, m), 7.48 (2H, d, J 8.4 Hz), 7.34 (1H, dd, J 9.4, 1.8 Hz), 6.37 (1H, d, J 16.4 Hz), 4.30 (2H, q, J 7.1 Hz), and 1.36 (3H, t, J 7.1 Hz).

reactant | Ethyl (diethoxyphosphinyl)acetate | 2.2 mmol, 0.44 mL, 0.50 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 2.5 mmol, 98 mg | [H-].[Na+]
reactant | 6-chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine-3-carboxaldehyde | 2.2 mmol, 650 mg | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)Cl)C=O | C14H8Cl2N2O
reactant | sodium hydride | 2.5 mmol, 98 mg | [H-].[Na+]
reactant | Water | 100 mL | O | H2O
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
product | (E)-Ethyl 3-[6-Chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl]-2-propenoate | 380 mg, 47% | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)Cl)/C=C/C(=O)OCC | C18H14Cl2N2O2
